US04353919
Analogous to Example 2(a), 2-acetyl-5-methyl-2-(3H)-benzothiazolone, m.p. 86°-88° C. (from isooctane/diisopropyl ether), was prepared with a yield of 51% of theory, starting from [(4-methyl-2-nitrophenyl)thio]-acetic acid. This intermediate was subsequently treated with 5 N hydrochloric acid analogous to Example 2(b). 5-Methyl-2(3H)-benzothiazolone was obtained with a yield of 74% of theory; m.p. 178°-180° C. (from ethanol/water 1:1).

reactant | isooctane diisopropyl ether | C(C)(C)CC(C)(C)C.C(C)(C)OC(C)C
reactant | [(4-methyl-2-nitrophenyl)thio]-acetic acid | CC1=CC(=C(C=C1)SCC(=O)O)[N+](=O)[O-] | C9H9NO4S
reactant | hydrochloric acid | 5 N | Cl | ClH
product | 5-Methyl-2(3H)-benzothiazolone | yield of 74% | CC=1C=CC2=C(NC(S2)=O)C1 | C8H7NOS
